US09107916B2
B. 2-{5-[4-(methylsulfonyl)phenyl]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared in 100% yield from 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (PREPARATION 3) and (2E)-3-(dimethylamino)-1-[4-(methylsulfonyl)phenyl]prop-2-en-1-one according to the procedure for the preparation of Example 12, part B. 1H NMR (400 MHz, CDCl3): δ 3.10 (3H, s), 6.58 (1H, d, J=1.6 Hz), 7.39 (1H, dd, J=5.2, 1.2 Hz), 7.51 (2H, d, J=8.4 Hz), 7.81 (1H, d, J=1.6 Hz), 7.93 (2H, d, J=8.4 Hz), 8.20 (1H, s), 8.29 (1H, d, J=5.2 Hz).

reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | Cl.N(N)C1=NC=CC(=C1)C#N
reactant | (2E)-3-(dimethylamino)-1-[4-(methylsulfonyl)phenyl]prop-2-en-1-one | CN(/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)C)C | C12H15NO3S
product | 2-{5-[4-(methylsulfonyl)phenyl]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | 100% yield | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C#N | C16H12N4O2S
